US07915443B2
Methyl 3-[4-(methylthio)phenyl]propanoate
In a 100 mL round bottom flask, 3-(4-(methylthio)phenyl)propanoic acid (1.00 g, 5.10 mmol) was dissolved in DMF (17 mL) under N2(g). CDI (1.24 g, 7.65 mmol) was then added to the reaction mixture and the resulting mixture was allowed to stir at room temperature for ˜45 min. MeOH (6 mL) was then added in dropwise fashion to the reaction. The reaction was allowed to stir for an additional 1 h, after which time it was extracted with EtOAc (3×50 mL) and brine (3×50 mL). The combined organic extracts were dried over anhydrous Na2SO4(s), filtered and concentrated. The crude product was purified by column chromatography (silica gel, gradient elution mixture: 10% EtOAc in Hexanes to 0100% EtOAc) to give the title compound (0.771 g, 72%).

reactant | 3-(4-(methylthio)phenyl)propanoic acid | 5.10 mmol, 1.00 g | CSC1=CC=C(C=C1)CCC(=O)O | C10H12O2S
reactant | CDI | 7.65 mmol, 1.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | MeOH | 6 mL | CO | CH4O
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[4-(methylthio)phenyl]propanoate | 0.771 g, 72% | CSC1=CC=C(C=C1)CCC(=O)OC | C11H14O2S
